US04113740
To a solution of 14.8 g. (102.7 mmol) of (S)-(-)-2-methyl-5-oxotetrahydro-2-furoic acid mp 84°-87° C.; [α]25D -16.56° in 70 ml. of dry tetrahydrofuran (THF) was added 10.1 ml. (8.1 g.; 106.7 mmol) of borane-methyl sulphide complex, dropwise, with stirring over a 0.5 hr. period. Occasional ice-bath cooling was employed to maintain the internal temperature below 30°. After stirring at room temperature for 1.5 hr., the reaction mixture was cautiously decomposed by the dropwise addition of 6.2 ml. of H2O. The mixture was then concentrated under water aspirator pressure and the residue was taken up in ethyl acetate and filtered. The solids were washed thoroughly with ethyl acetate and filtered. The solids were washed thoroughly with ethyl acetate and the filtrate and washes were combined and concentrated in vacuo giving (S)-(+)-5-(hydroxymethyl)-5-methyldihydro-2(3H)-furanone as a colorless oil (13.6 g.) which was used without further purification.

reactant | (S)-(-)-2-methyl-5-oxotetrahydro-2-furoic acid | 102.7 mmol | C[C@@]1(OC(CC1)=O)C(=O)O | C6H8O4
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | H2O | O | H2O
product | (S)-(+)-5-(hydroxymethyl)-5-methyldihydro-2(3H)-furanone | OC[C@@]1(CCC(O1)=O)C | C6H10O3
